US04174210
EXAMPLE 2--Preparation of 2-(N-chloroacetyl-2,6-dimethylphenylamino)cyclopentanone
A 4.5-ml (0.004-mol) sample of Jones Reagent (26.72 g chromium trioxide in 23 ml of concentrated sulfuric acid diluted with H2O to 100 ml) was added dropwise to a vigorously stirred solution of 4.4 g (0.016 mol) 2-(N-chloroacetyl-2,6-dimethylphenylamino)cyclopentanol in 100 ml acetone. The acetone solution was decanted from the solids, dried over magnesium sulfate, treated with silica and evaporated under reduced pressure to give 3.7 g of pale yellow oil. The oil was chromatographed on silica gel using mixtures of ethyl ether/hexane as eluant. 2-(N-chloroacetyl-2,6-dimethylphenylamino)cyclopentanone was eluted with 25% ethyl ether/hexane, as a white solid. This product melted at 79°-82° C. after recrystallization from hexane. This product is tabulated in Table I, as Compound No. 1-A.

reactant | Jones Reagent | 23 ml, 26.72 g | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2-(N-chloroacetyl-2,6-dimethylphenylamino)cyclopentanol | 0.016 mol, 4.4 g | ClCC(=O)N(C1C(CCC1)O)C1=C(C=CC=C1C)C | C15H20ClNO2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-(N-chloroacetyl-2,6-dimethylphenylamino)cyclopentanone | 3.7 g | ClCC(=O)N(C1C(CCC1)=O)C1=C(C=CC=C1C)C | C15H18ClNO2
